US08003799B2
4-Amino-3-Hydroxy-N-Para-Phenoxyphenylpicolinamide
To 0.14 g of 4-azido-3-hydroxy-N-para-phenoxyphenylpicolinamide (obtained from the compound of the Preparation Example according to the methods described in Examples a) to g)) dissolved in a mixture of ethanol/ethyl acetate, 1:2, there is added a spatula tip of 10% palladium on carbon. Hydrogenation is carried out at 20 bars pressure and ambient temperature for 4-5 hours. After filtration, concentration and chromatography of the residue in ethyl acetate, there is obtained 0.099 g of a white solid (MP : 197° C.).

reactant | 4-azido-3-hydroxy-N-para-phenoxyphenylpicolinamide | 0.14 g | N(=[N+]=[N-])C1=C(C(=NC=C1)C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)O | C18H13N5O3
solvent | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
catalyst | palladium on carbon | [Pd] | Pd
product | 4-Amino-3-Hydroxy-N-Para-Phenoxyphenylpicolinamide | 0.099 g | NC1=C(C(=NC=C1)C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)O | C18H15N3O3
